US07449456B2
4-Iodonitrobenzene and tert-butyl 5-oxo-[1,4]diazepan-1-carboxylate were allowed to undergo the reaction in 1,2-dichlorobenzene in the presence of copper powder and potassium carbonate, and then the nitro group was reduced in ethanol using zinc powder and calcium chloride to obtain benzyl 4-(4-aminophenyl)-5-oxo-1,4-diazepan-1-carboxylate. ESI: 340.

reactant | 4-Iodonitrobenzene | IC1=CC=C(C=C1)[N+](=O)[O-] | C6H4INO2
reactant | tert-butyl 5-oxo-[1,4]diazepan-1-carboxylate | O=C1NCCN(CC1)C(=O)OC(C)(C)C | C10H18N2O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
solvent | 1,2-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | ethanol | C(C)O | C2H6O
catalyst | copper | [Cu] | Cu
catalyst | zinc | [Zn] | Zn
product | benzyl 4-(4-aminophenyl)-5-oxo-1,4-diazepan-1-carboxylate | NC1=CC=C(C=C1)N1CCN(CCC1=O)C(=O)OCC1=CC=CC=C1 | C19H21N3O3
